US04889858
To a solution of 13 g of ethyl 3-fluoro-2-[(3-fluorophenyloxy)methyl]benzoate in 100 ml of ethanol is added 50 ml of 5% aqueous solution of sodium hydroxide and the mixture is refluxed with heating for 1 hour. After the solvent is distilled off under reduced pressure, 300 ml of water is added and then 10% hydrochloric acid is added to make the mixture acidic. The precipitated crystals are collected by filtration and dried to give 11 g of 3-fluoro-2-[3-fluorophenyloxy)methyl]benzoic acid. Mass spectrum m/z: 264(M+).

reactant | ethyl 3-fluoro-2-[(3-fluorophenyloxy)methyl]benzoate | 13 g | FC=1C(=C(C(=O)OCC)C=CC1)COC1=CC(=CC=C1)F | C16H14F2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
